US06362201B1
To a solution of 0.93 g (2.5 mmol) of carboethoxy-N-(3-phthalidamidopropyl)indole in 21 mL of isopropanol and 3.5 mL of water was added 0.47 g (12 mmol) of NaBH4 and the reaction mixture was stirred overnight at rt. To the reaction mixture was carefully added 2.4 mL of glacial acetic acid and the reaction mixture was heated at reflux for 24 h. The reaction mixture was concentrated and the residue was partitioned between EtOAc and 2N HCl. The aqueous layer was made basic with solid K2CO3 and extracted with EtOAc. The combined organic fractions were washed with sat'd NaCl solution, dried over Na2SO4, filtered and the filtrate was concentrated to give 0.57 g of 7-carboethoxy-N-(3-aminopropyl)indole that was used without further purification.

reactant | carboethoxy-N-(3-phthalidamidopropyl)indole | 2.5 mmol, 0.93 g | C(=O)(OCC)C=1N(C2=CC=CC=C2C1)CCCNC(=O)C1OC(=O)C2=CC=CC=C12 | C23H22N2O5
reactant | NaBH4 | 12 mmol, 0.47 g | [BH4-].[Na+]
reactant | acetic acid | 2.4 mL | C(C)(=O)O | C2H4O2
reactant | isopropanol | 21 mL | C(C)(C)O | C3H8O
solvent | water | 3.5 mL | O | H2O
product | 7-carboethoxy-N-(3-aminopropyl)indole | 0.57 g | C(=O)(OCC)C=1C=CC=C2C=CN(C12)CCCN | C14H18N2O2
